US08420823B2
N-(4-isopropoxyphenyl)-3-mercaptobenzamide
The entitled compound was obtained according to the method of Example 92 but using 4-isopropoxyaniline and 3-mercaptobenzoic acid as the starting materials.

reactant | 4-isopropoxyaniline | C(C)(C)OC1=CC=C(N)C=C1 | C9H13NO
reactant | 3-mercaptobenzoic acid | SC=1C=C(C(=O)O)C=CC1 | C7H6O2S
product | N-(4-isopropoxyphenyl)-3-mercaptobenzamide | C(C)(C)OC1=CC=C(C=C1)NC(C1=CC(=CC=C1)S)=O | C16H17NO2S
